US07288528B2
(4-Ethylphenyl)(2-methoxyphenyl)methane 55
1.34 g of (4-ethylphenyl)(2-methoxyphenyl)methanol are dissolved in acetonitrile and cooled to 0° C. 1.50 g of sodium cyanoborohydride are added to the mixture and then 3.00 ml of trimethylsilyl chloride are added. The mixture is stirred at room temperature overnight. The reaction solution is filtered through Celite and extracted with saturated NaCl solution. The organic phase is dried over sodium sulfate and concentrated. The crude product is chromatographed on silica gel with ethyl acetate/heptane (1/12). 0.83 g of the product is obtained. C16H180 (226.32) MS (DCl) 227.4 (M+H+)

reactant | (4-ethylphenyl)(2-methoxyphenyl)methanol | 1.34 g | C(C)C1=CC=C(C=C1)C(O)C1=C(C=CC=C1)OC | C16H18O2
reactant | sodium cyanoborohydride | 1.50 g | C(#N)[BH3-].[Na+]
reactant | trimethylsilyl chloride | 3.00 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | acetonitrile | C(C)#N | C2H3N
product | (4-Ethylphenyl)(2-methoxyphenyl)methane | 0.83 g | C(C)C1=CC=C(C=C1)CC1=C(C=CC=C1)OC | C16H18O
